US07381719B2
4-[5-(Piperidine-1-carbonyl)-pyridin-2-yloxy]-benzaldehyde
Combine 6-(4-Formyl-phenoxy)-nicotinic acid (250.0 mg, 1.03 mmol), EDC (237.0 mg, 1.23 mmol), HOBt (166.2 mg, 1.23 mmol), and Piperidine (0.10 mL, 1.03 mmol) in CH2Cl2 (6 mL). After reaction stirs at room temperature under a Nitrogen atmosphere for 24 hours, concentrate the reaction mixture using a rotovap, add Ethyl acetate and wash with 0.1N HCl, 10% NaHCO3, Brine, and dry over Na2SO4. After concentrating the reaction mixture, flash chromatograph using 2:1 Ethyl acetate:Hexanes to afford 144.1 mg (45% yield) of the title compound as a white foam: 1H NMR (500 MHz, CDCl3); 1.5-1.8 (6H, m), 3.3-3.8 (4H, m), 7.0-7.1 (1H, m), 7.3-7.4 (2H, m), 7.8-8.0 (3H, m), 8.3 (1H, m), 9.9 (1H, s); MS m/z 311 (M+1).

reactant | 6-(4-Formyl-phenoxy)-nicotinic acid | 1.03 mmol, 250.0 mg | C(=O)C1=CC=C(OC2=NC=C(C(=O)O)C=C2)C=C1 | C13H9NO4
reactant | EDC | 1.23 mmol, 237.0 mg
reactant | HOBt | 1.23 mmol, 166.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Piperidine | 1.03 mmol, 0.10 mL | N1CCCCC1 | C5H11N
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 4-[5-(Piperidine-1-carbonyl)-pyridin-2-yloxy]-benzaldehyde | 144.1 mg, 45% yield | N1(CCCCC1)C(=O)C=1C=CC(=NC1)OC1=CC=C(C=O)C=C1 | C18H18N2O3
